US06211234B1
To a stirred suspension of ethyl (RS)-4-[2-(5-ethoxycarbonylpyrazol-3-yl)-5-(3-thienylmethoxy)phenoxy]-4-(2-methylphenyl)butanoate (4 g) in 15% potassium hydroxide in methanol (100 mL, w/v) at room temperature is added water (10 mL). The solid slowly dissolves and after stirring for 15 minutes the reaction mixture is partitioned between ethyl acetate (200 mL) and 2 N hydrochloric acid (200 mL). The organic phase is washed with water (200 mL), dried over magnesium sulphate and evaporated. The residue is recrystallised from a mixture of ethyl acetate and cyclohexane to give (RS)-4-[2-(5-ethoxycarbonylpyrazol-3-yl)-5-(3-thienylmethoxy)phenoxy]-4-(2-methylphenyl)butanoic acid hydrate (1.9 g), m.p.167-168° C. [Elemental analysis:- C,63.9; H,5.39; N,5.22%. Calculated for C28H28N2O6S.0.5H2O:- C,63.5; H,5.48; N,5.29%].

reactant | ethyl (RS)-4-[2-(5-ethoxycarbonylpyrazol-3-yl)-5-(3-thienylmethoxy)phenoxy]-4-(2-methylphenyl)butanoate | 4 g | C(C)OC(=O)C1=CC(=NN1)C1=C(OC(CCC(=O)OCC)C2=C(C=CC=C2)C)C=C(C=C1)OCC1=CSC=C1 | C30H32N2O6S
reactant | water | 10 mL | O | H2O
solvent | potassium hydroxide | [OH-].[K+]
solvent | methanol | 100 mL | CO | CH4O
product | (RS)-4-[2-(5-ethoxycarbonylpyrazol-3-yl)-5-(3-thienylmethoxy)phenoxy]-4-(2-methylphenyl)butanoic acid hydrate | 1.9 g | O.C(C)OC(=O)C1=CC(=NN1)C1=C(OC(CCC(=O)O)C2=C(C=CC=C2)C)C=C(C=C1)OCC1=CSC=C1 | InChI=1S/C28H28N2O6S.H2O/c1-3-34-28(33)24-15-23(29-30-24)22-9-8-20(35-16-19-12-13-37-17-19)14-26(22)36-25(10-11-27(31)32)21-7-5-4-6-18(21)2;/h4-9,12-15,17,25H,3,10-11,16H2,1-2H3,(H,29,30)(H,31,32);1H2
